US07867774B2
To a stirred solution of 0.39 g of 5-nitrosotropolone (2.6 mmole, obtained from the previous example) and 10 mL of absolute ethanol was added 2.92 g of Tin (II) chloride (12.9 mmole). After 40 minutes at reflux the solution was cooled, filtered, and the liquefied portion was partitioned between ethyl acetate and water. The organic fraction was concentrated in vacuo to give 35 mg (10%) of 5-aminotropolone as a yellow solid. IR spectroscopy of the product (neat) found the following characteristic IR absorption frequencies: 3319 cm−1, 3181 cm−1, 2925 cm−1, 1511 cm−1, 1410 cm−1, 1261 cm−1, 837 cm−1, 781 cm−1, and 739 cm−1.

reactant | 5-nitrosotropolone | 0.39 g | C1=CC(=O)C(=O)C=CC1=NO | C7H5NO3
reactant | Tin (II) chloride | 12.9 mmole, 2.92 g | [Sn](Cl)Cl
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-aminotropolone | 35 mg, 10% | C1=CC(=O)C(=CC=C1N)O | C7H7NO2
